US04859707
2-Methylsulfinyl-N-(2,6-dimethylphenyl)acetamide.
To a methylene chloride solution containing 2.09 g (10 mmol) of 2-methylthio-N-(2,6-dimethylphenyl)acetamide was added, in portions over 30 min with stirring at 5° C., 2.16 g (10 mmol) of m-chloroperbenzoic acid (80% solution). The reaction mixture was kept at 5° C. for an additional 1.25 hr. The precipitate formed was filtered and washed twice with methylene chloride. The filtrate and washings were combined, washed once with saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate to afford white crystalline compound (88% yield), mp 112°-114° C.

reactant | 2-methylthio-N-(2,6-dimethylphenyl)acetamide | 10 mmol, 2.09 g | CSCC(=O)NC1=C(C=CC=C1C)C | C11H15NOS
reactant | m-chloroperbenzoic acid | 10 mmol, 2.16 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Methylsulfinyl-N-(2,6-dimethylphenyl)acetamide | 88% yield | CS(=O)CC(=O)NC1=C(C=CC=C1C)C | C11H15NO2S
